US08372823B2
Ethyl (E)-3-(4-(phenylthio)phenyl)acrylate (S42).
The title compound was prepared from 4-(phenylthio)benzaldehyde (S41) and triethylphosphonoacetate using the procedure described for ethyl-(E)-3-(4-benzylphenyl)acrylate (S38). Column chromatography (SiO2, 4×8 cm, 10% EtOAc-hexanes) afforded S42 (1.55 g, 5.5 mmol, 84%) as a yellow oil: 1H NMR (CDCl3, 400 MHz) 9.91 (s, 1H), 7.62 (d, 1H, J=15.8 Hz), 7.46-7.21 (m, 9H), 6.38 (d, 1H, J=15.8 Hz); 13C NMR (CDCl3, 100 MHz) 166.8, 143.6, 140.0, 133.4, 132.7, 132.3, 129.4, 129.1, 128.5, 128.0, 117.8, 60.4, 14.2.

reactant | 4-(phenylthio)benzaldehyde | C1(=CC=CC=C1)SC1=CC=C(C=O)C=C1 | C13H10OS
reactant | ethyl-(E)-3-(4-benzylphenyl)acrylate | C(C)OC(\C=C\C1=CC=C(C=C1)CC1=CC=CC=C1)=O | C18H18O2
product | Ethyl (E)-3-(4-(phenylthio)phenyl)acrylate | C1(=CC=CC=C1)SC1=CC=C(C=C1)/C=C/C(=O)OCC | C17H16O2S
